US03936464
Preparation of 1-acetyl-5-methoxy-2-methyl-3-[2-(4-phenyl-piperidino)ethyl]indoline
In the manner described in Example 1, treatment of 1-acetyl-3-(2-bromoethyl)-5-methoxy-2-methylindoline with 4-phenylpiperidine gives the product as an amorphous solid.

reactant | 1-acetyl-3-(2-bromoethyl)-5-methoxy-2-methylindoline | C(C)(=O)N1C(C(C2=CC(=CC=C12)OC)CCBr)C | C14H18BrNO2
reactant | 4-phenylpiperidine | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
product | 1-acetyl-5-methoxy-2-methyl-3-[2-(4-phenyl-piperidino)ethyl]indoline | C(C)(=O)N1C(C(C2=CC(=CC=C12)OC)CCN1CCC(CC1)C1=CC=CC=C1)C | C25H32N2O2
